US04344958
A mixture of 81.5 g of 3,4-dichlorophenol, 98.0 g of anhydrous K2CO3, 40.0 g of chloroacetonitrile and 100 ml of DMSO was stirred and heated to 70° C. after an initial period of ice cooling. The reaction mixture was heated at 70°-80° C. for 3 hours and the reaction mixture was then poured into 2500 ml of ice and water which resulted in crystal formation. The crystals were removed by filtration, washed with water and then dried overnight in a vacuum oven. The resulting solids were put in approximately 1 liter of boiling cyclohexane and treated with activated charcoal and then filtered. The filtrate was cooled to 10° C. and filtered, which gave 91.5 g of 3,4-dichlorophenoxyacetonitrile, m.p. 61°-62° C.

reactant | 3,4-dichlorophenol | 81.5 g | ClC=1C=C(C=CC1Cl)O | C6H4Cl2O
reactant | K2CO3 | 98.0 g | C(=O)([O-])[O-].[K+].[K+]
reactant | chloroacetonitrile | 40.0 g | ClCC#N | C2H2ClN
reactant | DMSO | 100 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 3,4-dichlorophenoxyacetonitrile | 91.5 g | ClC=1C=C(OCC#N)C=CC1Cl | C8H5Cl2NO
